US04371644
2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane (Compound No. 207)
A mixture of 8.8 g of 7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane and 7.0 g of 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane was heated at 120° C. for 30 hours. After completion of the reaction, the reaction mixture was purified by column chromatography through silica gel eluted with ethyl acetate. The desired Compound No. 207 was obtained in the form of a pale yellow oil which after being kept at ambient temperature, turned to a solid melting at 48°-50° C.

reactant | 7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane | 8.8 g | CC1(CC2(OCCO2)CC(N1)(C)C)C | C11H21NO2
reactant | 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane | 7.0 g | O1C(COC2CCC(CC2)C(C)(C)C2CCC(CC2)OCC2CO2)C1 | C21H36O4
product | 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]cyclohexyl}propane | OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C43H78N2O8
